US08003692B2
3-Dibenzofuran-4-yl-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and dibenzofuran-4-boronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 20% ethyl acetate/hexanes) yielded the product (141 mg, 83%) as a white solid. 1H NMR (300 MHz, CDCl3): δ 7.91 (d, J=6.9 Hz, 2H), 7.30-7.58 (m, 5H), 6.90 (s, 1H), 2.97 (t, J=4.7 Hz, 2H), 2.56 (t, J=6.1 Hz, 2H), 2.21 (quintet, J=5.8 Hz, 2H). 13C (75 MHz, CDCl3): 200.1, 156.2, 155.9, 153.3, 128.6, 127.7, 125.6, 125.3, 124.0, 123.5, 123.2, 123.0, 122.0, 120.7, 111.9, 37.7, 29.0, 23.2. HRMS (LCT Electrospray): mass calcd for (C18H14O2+Na) m/z 285.0891; measured [M+Na]+: m/z 285.0895.

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | dibenzofuran-4-boronic acid | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
product | 3-Dibenzofuran-4-yl-cyclohex-2-enone | 141 mg, 83% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC(CCC3)=O | C18H14O2
